Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
ruptured ectopic pregnancy
 
Major Surgical or Invasive Procedure:
exploratory laparotomy
right salpingo-oophorectomy
lysis of adhesions

 
History of Present Illness:
Ms. ___ is a ___ year-old G2P2 who presents as a transfer from 
___ for a right 7wk ectopic pregnancy with +FHR. 
Pt reports 2 weeks of RLQ pain which acutely worsened at 8pm 
last night where she has severe pain, dizzines, and felt like 
she was going ot pass out. She presented to ___ where my 
verbal report from Dr. ___ attending there) reports a 
7wk ectopic pregnancy with trace free fluid in the pelvis. HCT 
was 35 per her verbal report. Given that she was thought to be 
stable and the concern for difficulty of surgery given the pt's 
prior c-section and hysterectomy, she was transferred to ___ 
ED for higher level surgical care.

Currently, she feels weak, but denies dizziness, SOB/CP. 
Continues to have ab pain.

 
Past Medical History:
Obstetric History: G2P2
-SVD x 1, C-section x 1

Gynecologic History:
-h/o cervical fibroid s/p total hysterectomy at ___ 
___ (confirmed by report from Dr. ___ saw the 
records of the case there including pathology report)

Past Medical History:
-denies, no h/o heart/lung disease

Past Surgical History:
-c-section
-total hysterectomy

 
Social History:
- Lives with long-term partner. ___ T/E/D

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 09:00AM   GLUCOSE-144* UREA N-13 CREAT-0.7 SODIUM-138 
POTASSIUM-4.7 CHLORIDE-109* TOTAL CO2-19* ANION GAP-15
___ 09:00AM   CALCIUM-7.5* PHOSPHATE-4.0 MAGNESIUM-1.5*
___ 09:00AM   WBC-18.9* RBC-3.58* HGB-10.4* HCT-30.4* 
MCV-85 MCH-28.9 MCHC-34.1 RDW-15.2
___ 09:00AM   PLT COUNT-265
___ 07:33AM   GLUCOSE-133* UREA N-14 CREAT-0.8 SODIUM-137 
POTASSIUM-4.9 CHLORIDE-107 TOTAL CO2-19* ANION GAP-16
___ 07:33AM   CALCIUM-7.7* PHOSPHATE-4.1 MAGNESIUM-1.6
___ 07:33AM   WBC-23.3* RBC-3.99*# HGB-11.4*# HCT-34.2*# 
MCV-86 MCH-28.7 MCHC-33.4 RDW-15.2
___ 07:33AM   PLT COUNT-315
___ 04:37AM   ___ PTT-28.2 ___
___ 04:14AM   LACTATE-2.5*
___ 04:14AM   HGB-8.3* calcHCT-25
___ 04:05AM   GLUCOSE-151* UREA N-14 CREAT-0.7 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-109* TOTAL CO2-19* ANION GAP-15
___ 04:05AM   WBC-19.2* RBC-2.74* HGB-8.3* HCT-24.2* MCV-88 
MCH-30.4 MCHC-34.4 RDW-12.1
___ 04:05AM   NEUTS-86.1* LYMPHS-9.6* MONOS-4.0 EOS-0.2 
BASOS-0.2
___ 04:05AM   PLT COUNT-449*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing exploratory laparotomy, right 
salpingo-oophorectomy, lysis of adhesions. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with dilaudid PCA and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to vicodin, ibuprofen and tylenol. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. Her 
repeat hcG was 3019. Her hct was trended and was 19 on 
discharge. However, patient was assymptomatic, vital signs 
stable and did not received pRBC. She was discharged on iron 
supplements. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*2
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
4. Ferrous Sulfate 325 mg PO BID 
take with stool softener 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*60 Tablet Refills:*0
5. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 

___ cause drowsiness. take with stool softener 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ruptured ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Abdominal instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You have staples, they will be removed at your follow-up 
visit.  
.
*Please arrive an hour before ___ appointment to have your 
blood hCG drawn
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___